US07163947B2
A solution of N-benzylidene-(2-ethoxymethy-1H-imidazo[4,5-c]quinolin-1-yl)amine (1.00 g, 3.03 mmol) in 50 mL of MeOH was treated with NaBH4 (458 mg, 12.1 mmol). After stirring for 1.5 h, the reaction mixture was concentrated, then treated with saturated NaHCO3 solution, and extracted into CHCl3. The organic portion was washed with H2O and brine and dried over Na2SO4. The resulting solution was filtered and concentrated to give N-benzyl-(2-ethoxymethy-1H-imidazo[4,5-c]quinolin-1-yl)amine (1.01 g) as a tan solid.

reactant | N-benzylidene-(2-ethoxymethy-1H-imidazo[4,5-c]quinolin-1-yl)amine | 3.03 mmol, 1.00 g | C(C1=CC=CC=C1)=NN1C(=NC=2C=NC=3C=CC=CC3C21)COCC | C20H18N4O
reactant | NaBH4 | 12.1 mmol, 458 mg | [BH4-].[Na+]
solvent | MeOH | 50 mL | CO | CH4O
product | N-benzyl-(2-ethoxymethy-1H-imidazo[4,5-c]quinolin-1-yl)amine | 1.01 g | C(C1=CC=CC=C1)NN1C(=NC=2C=NC=3C=CC=CC3C21)COCC | C20H20N4O
